data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1684,1859,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[CH-:26][C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[CH:26]([C:27]#[N:28])[N:24]([CH3:25])[C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,22.73923490216018,-23.230987384891485
3655,4175,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:17]([C:18]#[N:19])[NH:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,26.698350781065862,-9.89728372744381
3215,3629,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,30.324667687010034,-3.654773282879603
3370,3829,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([C:14](=[O:15])[NH:16][CH3:17])[NH:12][N:11]1[CH3:10],water,298.15,36.533371572130726,-0.4775210109313151
1772,1963,[CH3:19][O:20][C:21](=[O:22])[CH:23]=[NH+:24][CH-:25][C:26]([CH3:27])=[O:28].[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:25]([C:26]([CH3:27])=[O:28])[NH:24][CH:23]2[C:21]([O:20][CH3:19])=[O:22],water,298.15,22.48179066830717,-46.777814654435566
1561,1727,[CH3:14][NH:15][C:16](=[O:17])[N-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27].[N:1]#[C:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:21]([C:22]#[N:23])([C:24](=[O:25])[O:26][CH3:27])[N:19]([CH3:20])[N:18]2[C:16]([NH:15][CH3:14])=[O:17],water,298.15,25.432677171789926,-2.135839000029481
2375,2637,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][CH-:21][O+:22]=[C:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:23]([C:24]#[N:25])([C:26](=[O:27])[O:28][CH3:29])[O:22][CH:21]2[CH3:20],water,298.15,20.09228262361832,-42.01023880257602
5163,5861,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH:19]=[NH+:20][C-:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]([CH3:23])=[O:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:20][CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,15.52831051562284,5.098660985874165
3686,4207,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([C:14]([CH3:15])=[O:16])[o:17][c:18]1=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]2([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14]([CH3:15])=[O:16])[O:17][C:18]2=[O:19],water,298.15,29.18909608139119,7.381452664412648
1942,2152,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[CH-:26][N+:27]#[C:28][C:29]#[N:30]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([C:29]#[N:30])=[N:27][CH:26]2[C:24]([O:23][CH3:22])=[O:25],water,298.15,9.371537663455705,-74.03014664828768
4095,4688,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:18](=[O:19])[NH:20][CH3:21])[NH:12][CH:13]1[C:14](=[O:15])[O:16][CH3:17],water,298.15,21.075865653259,-10.068435752984843
4861,5544,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]1([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,23.98659949516276,-16.256056536654988
